US06762197B2
1.0 g (4.61 mmol) of 2-methyl-5-phenylbenzyl chloride (produced in the same manner as in Intermediate Production Example 10) is dissolved in 2 ml of anhydrous N,N-dimethylformamide, and to this solution is added 450 mg (6.92 mmol) of sodium cyanide, and the mixture is stirred at 100° C. Subsequently, 2 ml of toluene is added to the reaction solution and the mixture is cooled to 0° C., to this is added 213 mg (4.61 mmol) of methylhydrazine, the mixture is stirred at room temperature, then, to this is added water, and the mixture is extracted with chloroform. The organic layer is washed with saturated saline, end-dried over anhydrous magnesium sulfate, and concentrated to obtain 2-methyl-4-(2-methyl-5-phenylbenzyl) semicarbazide.

reactant | sodium cyanide | 6.92 mmol, 450 mg | [C-]#N.[Na+]
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
reactant | methylhydrazine | 4.61 mmol, 213 mg | CNN | CH6N2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-methyl-4-(2-methyl-5-phenylbenzyl) semicarbazide | CN(N)C(=O)NCC1=C(C=CC(=C1)C1=CC=CC=C1)C | C16H19N3O
